US08283364B2
Scale-Up Procedure. 4-Fluoro-6-methyl-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride (D5a)
1,1-Dimethylethyl 4-(4-fluoro-6-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate (˜12.3 mmol, 4.3 g) (D4a) was dissolved in dichloromethane/methanol (50 ml/20 ml) and was treated with HCl (10 eq., 0.123 mol, ˜30 ml of a 4M solution in 1,4-dioxane) at room temperature; the mixture was stirred at room temperature for one overnight. Solvent was evaporated and the solid obtained was triturated with diethyl ether to afford the title compound (3.5 g, about 12.3 mmol brown solid) as the mono hydrochloride salt, M++H=250.

reactant | 1,1-Dimethylethyl 4-(4-fluoro-6-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate | ˜12.3 mmol, 4.3 g | FC1=CC(=CC=2N(C(NC21)=O)C2CCN(CC2)C(=O)OC(C)(C)C)C | C18H24FN3O3
reactant | HCl | Cl | ClH
solvent | dichloromethane methanol | 50 ml | ClCCl.CO
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-Fluoro-6-methyl-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride | about 12.3 mmol, 3.5 g | Cl.FC1=CC(=CC=2N(C(NC21)=O)C2CCNCC2)C | InChI=1S/C13H16FN3O.ClH/c1-8-6-10(14)12-11(7-8)17(13(18)16-12)9-2-4-15-5-3-9;/h6-7,9,15H,2-5H2,1H3,(H,16,18);1H
